US08492560B2
Under argon, 1,2,4-triazole (13.8 g, 200 mmol) was added to a solution of sodium ethoxide (freshly prepared from sodium (4.6 g) and ethanol (250 ml)). After complete dissolution, 3-bromopropan-1-ol (18 ml, 200 mmol) was added dropwise. The mixture was refluxed for 18 hours and the solid was filtered and washed with ethanol. The filtrate was evaporated and the residue was purified by column chromatography eluting with methylene chloride/methanol (9/1) to give 3-(1,2,4-triazol-1-yl)propan-1-ol (22.8 g, 90%).

reactant | 1,2,4-triazole | 200 mmol, 13.8 g | N1N=CN=C1 | C2H3N3
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 4.6 g | [Na] | Na
reactant | 3-bromopropan-1-ol | 200 mmol, 18 ml | BrCCCO | C3H7BrO
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 3-(1,2,4-triazol-1-yl)propan-1-ol | 22.8 g, 90% | N1(N=CN=C1)CCCO | C5H9N3O
